US09447035B2
To a mixture of 3,5-dichlorophenol (16.3 g, 100 mmol), imidazole (14.98 g, 220 mmol), and triisopropylchlorosilane (21.21 g, 110 mmol) was added DMF (200 mL) at room temperature. The resulting brown solution was stirred for 15 h and then it was diluted with water (500 mL). The organic compound was extracted into ethyl acetate (2×100 mL) and the combined organic layer was washed with brine solution and dried over anhydrous MgSO4. Filtration and concentration gave the crude residue which was purified using an ISCO (400 g) column chromatography to obtain 31.1 g (97%) of (3,5-dichlorophenoxy)-triisopropylsilane as a colorless oil. EI(+)-HRMS m/e calcd. for C15H24Cl2OSi (M)+ 318.0973, obsd. 318.0971.

reactant | 3,5-dichlorophenol | 100 mmol, 16.3 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | imidazole | 220 mmol, 14.98 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylchlorosilane | 110 mmol, 21.21 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | (3,5-dichlorophenoxy)-triisopropylsilane | 31.1 g, 97% | ClC=1C=C(O[Si](C(C)C)(C(C)C)C(C)C)C=C(C1)Cl | C15H24Cl2OSi
